US08633173B2
N(8)-(2-Methoxy-benzyl)-N(2)-[3-(4-methyl-piperazin-1-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepared from (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methoxy-benzyl)-amine (100.00 mg, 0.34634 mmol) and 3-(4-methylpiperazin-1-yl)aniline (74.2 mg, 0.388 mmol) in a manner analogous to Example 2d. Product isolated as a brown foam (39.14 mg, 25.4%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.12 (s, 1H), 7.96 (d, J=6.4 Hz, 1H), 7.25 (m, 4H), 7.09 (t, J=15.9, 7.8 Hz, 1H), 7.03 (d, J=8.6 Hz, 1H), 6.88 (t, J=15.0, 7.9 Hz, 1H), 6.73 (t, J=14.5, 7.4 Hz, 1H) 6.46 (d, J=8.6 Hz, 1H), 6.32 (d, J=8.1 Hz, 1H), 6.10 (m, 1H), 4.48 (d, J=5.2 Hz, 2H), 3.87 (s, 3H), 3.12 (s, 4H), 2.45 (s, 4H), 2.22 (s, 3H). MS=444 (MH)+.

reactant | (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methoxy-benzyl)-amine | 0.34634 mmol, 100.00 mg | ClC1=NN2C(C(=CC=C2)NCC2=C(C=CC=C2)OC)=N1 | C14H13ClN4O
reactant | 3-(4-methylpiperazin-1-yl)aniline | 0.388 mmol, 74.2 mg | CN1CCN(CC1)C=1C=C(N)C=CC1 | C11H17N3
product | N(8)-(2-Methoxy-benzyl)-N(2)-[3-(4-methyl-piperazin-1-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | COC1=C(CNC=2C=3N(C=CC2)N=C(N3)NC3=CC(=CC=C3)N3CCN(CC3)C)C=CC=C1 | C25H29N7O
